US06759429B2
Under nitrogen atmosphere, to a solution of methyl 2-amino-3-formylbenzoate (3.00 g) in methanol (80 ml) were added propanal (1.50 mL) and piperidine (800 μL), and the mixture was heated under reflux. To the mixture were further added propanal (700 μL) and piperidine (400 μL), and the mixture was further heated under reflux for total 4 hours. The solvent in the reaction solution was evaporated under reduced pressure, and water was added to the residue. The mixture was extracted with ethyl acetate, and the extract was washed twice with water, and washed with a saturated brine, dried over magnesium sulfate, and filtered. The solvent was evaporated under reduced pressure, and the residue was purified twice by silica gel column (hexane/ethyl acetate=3/1→2/1→1/1) and silica gel column (hexane/ethyl acetate=3/1→2/1) to give 3-methyl-8-methoxycarbonylquinoline (2.21 g, 66%).

reactant | methyl 2-amino-3-formylbenzoate | 3.00 g | NC1=C(C(=O)OC)C=CC=C1C=O | C9H9NO3
reactant | propanal | 1.50 mL | C(CC)=O | C3H6O
reactant | piperidine | 800 μL | N1CCCCC1 | C5H11N
reactant | propanal | 700 μL | C(CC)=O | C3H6O
reactant | piperidine | 400 μL | N1CCCCC1 | C5H11N
solvent | methanol | 80 ml | CO | CH4O
product | 3-methyl-8-methoxycarbonylquinoline | 2.21 g, 66% | CC=1C=NC2=C(C=CC=C2C1)C(=O)OC | C12H11NO2
